US09145411B2
Step 4: ((Acetyl(3-(2-(2-aminopyrimidin-5-yl)-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)-phenyl)carbamoyl)oxy)methyl acetate
To a 50 mL sealed tube, ((acetyl(3-(2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)phenyl)carbamoyl)oxy)methyl acetate (0.96 g, 0.0019 mol), 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine (0.852 g, 0.0038 mol), potassium phosphate tribasic (0.81 g, 0.0038 mol), 1,4-dioxane (45 mL), and water (4 mL) were added. The reaction mixture was degassed with N2 for 5-10 minutes. To the same reaction mixture, Pd(PPh3)4 (0.11 g, 0.000096 mol) was added and the mixture was degassed with N2 for 5-10 min. The reaction mixture was stirred at 82° C. for 30 minutes. The volatiles were evaporated to provide a residue. The residue was dissolved in chloroform. The chloroform layer was washed with water, brine, dried over anhydrous sodium sulphate and evaporated under reduced pressure to provide a crude solid. The crude solid was purified by flash column chromatography (0-2% methanol in chloroform) to provide a solid. The solid was washed with methanol to provide the title compound as a light yellow solid (0.4 g, 40%). 1H NMR (400 MHz, DMSO-d6): δ 9.18 (s, 2H), 9.08 (s, 1H), 8.35 (s, 1H), 7.98 (d, J=8.0 Hz, 1H), 7.91 (br s, 1H), 7.62 (t, J=7.6 Hz, 1H), 7.35 (d, J=7.6 Hz, 1H), 7.20 (br s, 2H), 5.68 (s, 2H), 4.52 (br s, 4H), 3.84 (t, J=4.0 Hz, 4H), 2.57 (s, 3H), 2.06 (s, 3H). LC-MS (ESI): Calculated mass: 558.20; Observed mass [M+H]+: 558.8 (RT: 0.40 min).

reactant | ((acetyl(3-(2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)phenyl)carbamoyl)oxy)methyl acetate | 0.0019 mol, 0.96 g | C(C)(=O)OCOC(N(C1=CC(=CC=C1)C1=CC=2N=C(N=C(C2N=C1)N1CCOCC1)Cl)C(C)=O)=O | C23H22ClN5O6
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine | 0.0038 mol, 0.852 g | CC1(OB(OC1(C)C)C=1C=NC(=NC1)N)C | C10H16BN3O2
reactant | potassium phosphate tribasic | 0.0038 mol, 0.81 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 1,4-dioxane | 45 mL | O1CCOCC1 | C4H8O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | Pd(PPh3)4 | 0.000096 mol, 0.11 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 4 mL | O | H2O
product | ((Acetyl(3-(2-(2-aminopyrimidin-5-yl)-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)-phenyl)carbamoyl)oxy)methyl acetate | 0.4 g, 40% | C(C)(=O)OCOC(N(C1=CC(=CC=C1)C1=CC=2N=C(N=C(C2N=C1)N1CCOCC1)C=1C=NC(=NC1)N)C(C)=O)=O | C27H26N8O6
